US08957203B2
A solution of 4-fluoro-2-methoxybenzaldehyde (1.0 g, 6.49 mmol) and malonic acid (1.350 g, 12.98 mmol) in pyridine (10 mL) was refluxed for 16 h. After concentration the residue was taken into water. The solid was filtered, washed with water, then dried to give (E)-3-(4-fluoro-2-methoxyphenyl)acrylic acid (1.22 g, 96% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.03 (d, J=16.1 Hz, 1H), 7.53 (dd, J=8.5, 6.8 Hz, 1H), 6.75-6.65 (m, 2H), 6.52 (d, J=16.1 Hz, 1H), 3.92 (s, 3H).

reactant | 4-fluoro-2-methoxybenzaldehyde | 6.49 mmol, 1.0 g | FC1=CC(=C(C=O)C=C1)OC | C8H7FO2
reactant | malonic acid | 12.98 mmol, 1.350 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (E)-3-(4-fluoro-2-methoxyphenyl)acrylic acid | 1.22 g, 96% yield | FC1=CC(=C(C=C1)/C=C/C(=O)O)OC | C10H9FO3
